US05151432
Stage A: (3S)-2-Azabicyclo[2.2.2]OCTANE-3-Carboxylic Acid n-Octyl Ester Hydrochloride
9.6 ml of thionyl chloride are added dropwise into a 250 ml round-bottomed flask containing 60 ml of n-octanol cooled to 0° C. After stirring for 10 min at 0° C., 18.6 g of (3S)-2-azabicyclo[2.2.2]octane-3-carboxylic acid (described in Patent FR 2,585,709) are added slowly. The reaction mixture is left stirring overnight at room temperature, then heated for 6 hours at 80° C. and again left overnight at room temperature. After adding 100 ml of anhydrous ether and filtering off the unreacted hydrochloride, the filtrate is condensed and then taken up with a water/ether mixture (50:50). The expected product is obtained after concentration of the aqueous phase and then drying under vacuum.

reactant | thionyl chloride | 9.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | n-octanol | 60 ml | C(CCCCCCC)O | C8H18O
reactant | (3S)-2-azabicyclo[2.2.2]octane-3-carboxylic acid | 18.6 g | C12N[C@@H](C(CC1)CC2)C(=O)O | C8H13NO2
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | water ether | O.CCOCC
product | (3S)-2-Azabicyclo[2.2.2]OCTANE-3-Carboxylic Acid n-Octyl Ester Hydrochloride | Yield: 81% | Cl.C(CCCCCCC)OC(=O)[C@H]1NC2CCC1CC2 | InChI=1S/C16H29NO2.ClH/c1-2-3-4-5-6-7-12-19-16(18)15-13-8-10-14(17-15)11-9-13;/h13-15,17H,2-12H2,1H3;1H/t13?,14?,15-;/m0./s1
